US07521461B2
b) 2-({4-[2-({[(2,4-Difluorophenyl)amino]carbonyl}amino)ethyl]phenoxy}methyl)benzoic acid
Lithium hydroxide (3.7 mg, 0.154 mmol) in water (1 ml) was added into methyl 2-({4-[2-({[(2,4-difluorophenyl)amino]carbonyl}amino)ethyl]phenoxy}methyl)benzoate (34 mg, 0.077 mmol) dissolved in THF (2 ml). The mixture was then irradiated in a microwave oven (Smith Synthesizer) at 150° C. for 7 minutes and then evaporated to remove THF. The residue was acidified with 1% hydrochloric acid, pH˜4, and extracted with ethyl acetate (×2). The organic extracts were combined and dried with magnesium sulphate and then evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 1 g/6 ml) using MeOH/DCM (1:99, 2:98, 4:96 and then 10:90) as eluant gave 18 mg the desired product, yield 55%.

reactant | Lithium hydroxide | 0.154 mmol, 3.7 mg | [OH-].[Li+]
reactant | methyl 2-({4-[2-({[(2,4-difluorophenyl)amino]carbonyl}amino)ethyl]phenoxy}methyl)benzoate | 0.077 mmol, 34 mg | FC1=C(C=CC(=C1)F)NC(=O)NCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C24H22F2N2O4
solvent | water | 1 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-({4-[2-({[(2,4-Difluorophenyl)amino]carbonyl}amino)ethyl]phenoxy}methyl)benzoic acid | 18 mg, yield 55% | FC1=C(C=CC(=C1)F)NC(=O)NCCC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C23H20F2N2O4
